US06153613
A mixture of 1.2 g of methyl (2,3-dioxopiperazin-1-yl)acetate, 0.26 g of sodium hydride (60%, oil) and 12 ml of N,N-dimethylformamide was stirred at room temperature for 30 minutes. Then, 2.52 g of 1-bromo-3-(4-benzyloxycarbonylamidinophenoxy)propane was added thereto and the resulting mixture was stirred at 60° C. for 2 hours. The reaction mixture was cooled and then added to a mixed solvent of 40 ml of ethyl acetate and 40 ml of water. After the pH was adjusted to 1 with 2N hydrochloric acid, the aqueous layer was separated. To the aqueous layer was added 40 ml of ethyl acetate and the pH was adjusted to 10 with potassium carbonate. The organic layer was separated and the aqueous layer was extracted with three 20-ml portions of ethyl acetate. The combined organic layer was washed with water and then a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform:methanol=30:1) to obtain 1.17 g of methyl [4-[3-(4-benzyloxycarbonylamidinophenoxy)propyl]2,3-dioxopiperazin-1-yl]acetate as a colorless oil.

reactant | methyl (2,3-dioxopiperazin-1-yl)acetate | 1.2 g | O=C1N(CCNC1=O)CC(=O)OC | C7H10N2O4
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 1-bromo-3-(4-benzyloxycarbonylamidinophenoxy)propane | 2.52 g | BrCCCOC1=CC=C(C=C1)C(NC(=O)OCC1=CC=CC=C1)=N | C18H19BrN2O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | methyl [4-[3-(4-benzyloxycarbonylamidinophenoxy)propyl]2,3-dioxopiperazin-1-yl]acetate | 1.17 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(OCCCN2C(C(N(CC2)CC(=O)OC)=O)=O)C=C1 | C25H28N4O7
